US07960563B2
2-Bromo-3,6-difluorobenzaldehyde (D14)
To solution of diisopropylamine (13.29 mL, 93 mmol) in THF (300 mL) at −78° C., was added n-butyllithium (34.2 mL of 2.5M in hexanes, 85 mmol), dropwise over 10 mins. The mixture was stirred at −78° C. for 15 mins and then 2-bromo-1,4-difluorobenzene (15 g, 78 mmol) in THF (100 mL) was added dropwise over 15 mins maintaining the temperature below −65° C. After stirring for 1 hr at −78° C., N,N-dimethylformamide (6.62 mL, 85 mmol) was added via syringe. The mixture was stirred at −78° C. for 30 mins and then quenched with sat. NH4Cl solution and the mixture was allowed to reach room temperature. The product was extracted into ether and the extracts were dried (Na2SO4) and evaporated. Chromatography (silica, 0-100% dichloromethane in hexane) gave the title compound (D14) as a yellow solid (12.73 g)

reactant | diisopropylamine | 93 mmol, 13.29 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 85 mmol, 2.5M, 34.2 mL | C(CCC)[Li]
reactant | 2-bromo-1,4-difluorobenzene | 78 mmol, 15 g | BrC1=C(C=CC(=C1)F)F | C6H3BrF2
reactant | N,N-dimethylformamide | 85 mmol, 6.62 mL | CN(C=O)C | C3H7NO
solvent | THF | 300 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 2-Bromo-3,6-difluorobenzaldehyde | 12.73 g | BrC1=C(C=O)C(=CC=C1F)F | C7H3BrF2O
